US05221742
Step h: 6-(3,4-Dihydro-3-oxo-1,4(2H)-benzoxazin-7-yl)-2,3,4,5-tetrahydro-5-methylpyridazin-3-one
4-(3,4-Dihydro-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyric acid (31 g, 0.12 moles) was dissolved in ethanol (300 ml) and anhydrous hydrazine (4.7 ml, 0.15 moles) was added. The mixture was heated at reflux overnight. White crystals formed after the mixture was cooled. The crystals were collected by filtration and washed well with ethanol. The solid was dried under vacuum giving 28.5 g (93%) of the titled compound, mp 299°-302° C.

reactant | 4-(3,4-Dihydro-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyric acid | 0.12 moles, 31 g | O=C1COC2=C(N1)C=CC(=C2)C(C(CC(=O)O)C)=O | C13H13NO5
reactant | hydrazine | 0.15 moles, 4.7 ml | NN | H4N2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-(3,4-Dihydro-3-oxo-1,4(2H)-benzoxazin-7-yl)-2,3,4,5-tetrahydro-5-methylpyridazin-3-one | 28.5 g, 93% | O=C1COC2=C(N1)C=CC(=C2)C=2C(CC(NN2)=O)C | C13H13N3O3
